US09216975B2
Preparation of 1-(4-chlorobenzyl)-3-(2,3-dihydro-2-oxobenzo[d]oxazol-4-yl)urea
Commercially available p-chlorobenzylamine (1.6 g, 11.4 mmol) was dissolved in 60 ml of AcOEt and at 0° C. triphosgene (3.38 g, 1 equiv.) was added to the solution. The mixture was warmed at 80° C. for 4 hours then evaporated and the residue was dissolved in 30 ml of DMF. The solution of the isocyanate was added dropwise to a solution in DMF (10 ml) of compound 1b (1.7 g, 11.4 mmol) and the mixture was warmed at 80° C. for 8 hours. (TLC AcOEt 7/petroleum ether 3). The solvent was evaporated and the crude was dissolved in AcOEt (80 ml) and washed with water (1×50 ml) and brine. The organic phase was dried over sodium sulfate and concentrated under vacuum. The purification of the crude residue by chromatographic column gave 500 mg of a white solid. Yield=14% 1HNMR (DMSO, 200 MHz) δ 4.57 (2H, d, J=5.8 Hz), 6.53 (2H, m), 7.04 (1H, m), 7.41 (4H, s), 9.88 (1H, t), 11.53 (1H, s), 11.80 (1H, bs); [M+1] 318.5 (C15H12ClN3O3 requires 317.73).

reactant | p-chlorobenzylamine | 11.4 mmol, 1.6 g | ClC1=CC=C(CN)C=C1 | C7H8ClN
reactant | triphosgene | 3.38 g, 1 equiv. | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | isocyanate | [N-]=C=O
solvent | AcOEt | 60 ml | CCOC(=O)C | C4H8O2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 1-(4-chlorobenzyl)-3-(2,3-dihydro-2-oxobenzo[d]oxazol-4-yl)urea | 500 mg, Yield=14% | ClC1=CC=C(CNC(=O)NC2=CC=CC3=C2NC(O3)=O)C=C1 | C15H12ClN3O3
